US06313132B1
41.4 N,N-Diisopropyl-3-(2-hydroxyphenyl)-3-(2-thienyl)propanamide
A solution of N,N-diisopropyl-3-(2-methoxyphenyl)-3-(2-thienyl)propanamide (2.37 g, 6.9 mmol) in dichloromethane(35 mL) was cooled down to −78° C. and boron tribromide (5.9 g 23.57 mmol) was added. The reaction mixture was allowed to slowly warm to room temperature. The reaction was quenched by slow addition of water (20 mL). The pH was adjusted to around 6 with NaHCO3(s) and the mixture was extracted three times with CH2Cl2. The combined organic phases were washed once with brine, dried (MgSO4) and the solvent was evaporated. This crude product (2.46 g, 107%) was used without further purification. 1H NMR (CDCl3) δ1.05 (d, 3H), 1.20 (m, 6H), 1.35 (d, 3H), 3.16 (m, 2H), 3.4 (br, 1H), 4.0 (m, 1H), 5.24 (dd. 1H), 6.7-7.2 (m, 7H).

reactant | N,N-diisopropyl-3-(2-methoxyphenyl)-3-(2-thienyl)propanamide | 6.9 mmol, 2.37 g | C(C)(C)N(C(CC(C=1SC=CC1)C1=C(C=CC=C1)OC)=O)C(C)C | C20H27NO2S
reactant | boron tribromide | 23.57 mmol, 5.9 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | N,N-Diisopropyl-3-(2-hydroxyphenyl)-3-(2-thienyl)propanamide | C(C)(C)N(C(CC(C=1SC=CC1)C1=C(C=CC=C1)O)=O)C(C)C | C19H25NO2S
